US07022707B2
A solution of 4.47 g N-Boc-piperazine in 40 ml acetonitrile was saturated with dry carbon dioxide gas at rt. To this solution was added dropwise in 5 min. a solution of 8.50 g (28 mmol) terabutylammonium hydrogencarbonate (dried at 50° C. at 0.1 mbar for 1 h) in 30 ml acetonitrile, and then carbon dioxide gas bubbled into the stirred solution at rt for 1 h. Then 2.90 g (20 mmol) 2-fluorobenzyl chloride was added drop-wise within 5 min. After stirring at rt for 3 h the reaction mixture was evaporated, 150 ml of water added and extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4 and evaporated. Purification by flash chromatography on silica gel with hexane/AcOEt 50:50 provided 4.29 g piperazine-1,4-dicarboxylic acid tert-butyl ester 2-fluoro-benzyl ester as colourless powder. 1H-NMR(CDCl3): 1.46 s, 9H; 3.35–3.55 m, 8H; 5.21 s, 2H; 7.02–7.20 m, 2H and 7.27–7.45 m, 2H. MS (EI): 338.1 M+.

reactant | N-Boc-piperazine | 4.47 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | terabutylammonium hydrogencarbonate | 28 mmol, 8.50 g | C(O)([O-])=O.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-fluorobenzyl chloride | 20 mmol, 2.90 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | piperazine-1,4-dicarboxylic acid tert-butyl ester 2-fluoro-benzyl ester | 4.29 g | FC1=C(COC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C17H23FN2O4
